US04376786
2 drops of dimethylformamide and then 11.2 g (0.095 mol) of thionyl chloride were added to a solution of 16.8 g (0.07 mol) of 2-(1-nonen-1-yl)-3,3-dimethylcyclopropane acid in 80 ml of methylene chloride. The mixture was then boiled under reflux for 1 hour, the solvent is distilled off in vacuo and the residue was distilled in vacuo. 16 g (89% of theory) of 2-(1-nonen-1-yl)-3,3-dimethylcyclopropanecarboxylic acid chloride with a boiling point of 110°/0.5 mm Hg were obtained in this manner.

reactant | thionyl chloride | 0.095 mol, 11.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(1-nonen-1-yl)-3,3-dimethylcyclopropane | 0.07 mol, 16.8 g | C(=CCCCCCCC)C1CC1(C)C | C14H26
reactant | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2-(1-nonen-1-yl)-3,3-dimethylcyclopropanecarboxylic acid chloride | 16 g, 89% | C(=CCCCCCCC)C1C(C1(C)C)C(=O)Cl | C15H25ClO
